US06943188B2
(i) N-[2-(2-cyclohexen-1-yloxy)phenyl]acetamide
2-Cyclohexenol (491 mg, 0.49 ml, 5.00 mmol, 1.0 equiv.), 2-acetamidophenol (756 mg, 5.00 mmol, 1.0 equiv.) and triphenylphosphine (1.44 g, 5.50 mmol, 1.1 equiv.) were dissolved in THF (10 ml) and kept at ambient temperature by a water bath. After dropwise addition of diethyl azodicarbonic acid (871 mg, 0.78 ml, 5.00 mmol, 1.0 equiv.), dissolved in THF (3 ml), the reaction mixture was stirred over night. Extractive work-up and flash chromatography on silica gel (heptane/tertbutyl(methyl)ether=1:1) afforded 224 mg (19%) the title compound as a yellow oil.

reactant | 2-Cyclohexenol | 5.00 mmol, 0.49 ml, 491 mg, 1.0 equiv. | C1(C=CCCC1)O | C6H10O
reactant | 2-acetamidophenol | 5.00 mmol, 756 mg, 1.0 equiv. | C(C)(=O)NC1=C(C=CC=C1)O | C8H9NO2
reactant | triphenylphosphine | 5.50 mmol, 1.44 g, 1.1 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarbonic acid | 5.00 mmol, 0.78 ml, 871 mg, 1.0 equiv. | C(C)OC(ON=NOC(OCC)=O)=O | C6H10N2O6
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-[2-(2-cyclohexen-1-yloxy)phenyl]acetamide | 224 mg, 19% | C1(C=CCCC1)OC1=C(C=CC=C1)NC(C)=O | C14H17NO2
